US04251462
Hydroformylation of cyclododecatriene
The catalyst, 75 mg of tris-(dibenzyl sulfide)-tris-chloro-rhodium and 2.4 g of dicobalt octacarbonyl, and 500 g of toluene are introduced into a fine-steel autoclave. The autoclave is repeatedly purged with a 1:1 gas mixture of carbon monoxide and hydrogen with which a pressure of up to 100 bars is established. The autoclave is heated with stirring to 170° C. and the pressure is increased to 200 bars using the same gas mixture, the pressure subsequently being kept constant by the introduction of more CO/H2 when the pressure falls. After 1 hour, the temperature is reduced to 110° C. and a solution of 500 g of cyclododeca-1,5,9-triene in 1,000 g of toluene is pumped into the autoclave over a period of 3 hours. After another 90 minutes, the reaction mixture is cooled and the autoclave is vented and purged with nitrogen. The reaction solution is filtered. The solvent is distilled off at 1,600 Pa. The reaction product is distilled in a thin layer evaporator at 13 Pa and at a jacket temperature of around 220° C. The composition of the distillate is determined by gas chromatography (column: 1 m Carbowax 6000 on Teflon; heating rate: 15° C./min; 130° to 260° C.). The sample is diluted with tetrahydrofuran.

reactant | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
catalyst | dicobalt octacarbonyl | 2.4 g | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | cyclododecatriene | C1=CC=CC=CCCCCCC1 | C12H18
